### PR TITLE
[Merged by Bors] - feat(SimpleGraph): there exists a maximal path/trail in a graph with finite edges

### PR DESCRIPTION
**Pull request by vlad902**
Inspired by [this Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/Help.20me.20learn.20good.20style.3A.20IsTree/near/543395218)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 1]
```diff
@@ -314,6 +314,32 @@ lemma IsPath.tail {p : G.Walk u v} (hp : p.IsPath) : p.tail.IsPath := by
...
+  obtain ⟨x⟩ := N
+  obtain ⟨_, ⟨⟨u, v, p, hp, _⟩, hn⟩⟩ := this.exists_maximal ⟨0, ⟨x, x, Walk.nil, by simp⟩⟩
+  refine ⟨u, v, p, hp, fun u' v' p' hp' ↦ ?_⟩
+  have := hn ⟨u', v', p', hp', Eq.refl p'.length⟩
+  cutsat
+
+lemma exists_isPath_forall_isPath_length_le_length (G : SimpleGraph V) [N : Nonempty V]
+    [Fintype G.edgeSet] :
+    ∃ (u v : V) (p : G.Walk u v) (_ : p.IsPath),
+      ∀ (u' v' : V) (p' : G.Walk u' v') (_ : p'.IsPath), p'.length ≤ p.length := by
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:350]: This could alternatively be spelled: `∃ (p : Σ u v, G.Walk u v), MaximalFor (·.2.2.IsPath) (·.2.2.length) p` though it seemed less clear to me.

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Paths.lean:350]: Wdyt about [this idea from Zulip](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/How.20to.20return.20Walk/near/555004429)? Something like
```lean
structure Walk' extends V × V where
  toWalk : G.Walk fst snd
```
(but with a better name) will let you spell the lemma as follows:
`∃ p : G.Walk', MaximalFor (·.toWalk.IsPath) (·.toWalk.length) p`.

`G.Walk'` is to `G.Walk` what `G.Dart` is to `G.Adj`.

Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Paths.lean:350]: Until something like it is upstream there's not much to do about it.

Comment (jcommelin) [reply Mathlib/Combinatorics/SimpleGraph/Paths.lean:350]: I think it would be nice if eventually such a spelling becomes possible. But for now, the current spelling seems fine.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
